US07812021B2
2-Bromo-1-{(3RS,4SR)-3-(3,4-dichloro-phenyl)-4-[(RS)-1-(4-trifluoromethyl-phenoxy)-ethyl]-pyrrolidin-1-yl}-ethanone
To a stirred solution of (3RS,4SR)-3-(3,4-dichloro-phenyl)-4-[(RS)-1-(4-trifluoromethyl-phenoxy)-ethyl]-pyrrolidine (XV-B-1) 0.25 g (0.62 mmol) in CH2Cl2 (30 mL) at RT, 0.10 ml (0.74 mmol) of Et3N and 0.062 mL (0.74 mmol) of bromo-acetyl chloride were added. Stirring was continued over night and then concentrated under vacuo. The crude residue was dissolved in EtOAc, washed with H2O. The organic phase was dried over Na2SO4 and the product was purified by flash chromatography (SiO2, EtOAc) to yield the title product 0.275 g (85%) as a colorless oil.

reactant | (3RS,4SR)-3-(3,4-dichloro-phenyl)-4-[(RS)-1-(4-trifluoromethyl-phenoxy)-ethyl]-pyrrolidine | 0.62 mmol, 0.25 g | ClC=1C=C(C=CC1Cl)C1CNCC1C(C)OC1=CC=C(C=C1)C(F)(F)F | C19H18Cl2F3NO
reactant | Et3N | 0.74 mmol, 0.10 ml | CCN(CC)CC | C6H15N
reactant | bromo-acetyl chloride | 0.74 mmol, 0.062 mL | BrCC(=O)Cl | C2H2BrClO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-{(3RS,4SR)-3-(3,4-dichloro-phenyl)-4-[(RS)-1-(4-trifluoromethyl-phenoxy)-ethyl]-pyrrolidin-1-yl}-ethanone | 0.275 g, 85% | BrCC(=O)N1CC(C(C1)C(C)OC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)Cl | C21H19BrCl2F3NO2
